US08022222B2
Step B: Preparation of ethyl 3-(2-amino-5-bromopyridin-4-yloxy)-4-chlorobenzoate:
A flask was charged with ethyl 3-(2-aminopyridin-4-yloxy)-4-chlorobenzoate (5.50 g, 18.8 mmol) and acetic acid (50 mL), and bromine (0.943 ml, 18.4 mmol) was added. The reaction was stirred at ambient temperature for 30 minutes and then concentrated. The residue was purified by silica gel column chromatography, eluting with 20%-35% ethyl acetate in hexanes to give the desired product (4.20 g, 58.9% yield) as light yellow solid.

reactant | ethyl 3-(2-aminopyridin-4-yloxy)-4-chlorobenzoate | 18.8 mmol, 5.50 g | NC1=NC=CC(=C1)OC=1C=C(C(=O)OCC)C=CC1Cl | C14H13ClN2O3
reactant | bromine | 18.4 mmol, 0.943 ml | BrBr | Br2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-(2-amino-5-bromopyridin-4-yloxy)-4-chlorobenzoate | 4.20 g, 58.9% yield | NC1=NC=C(C(=C1)OC=1C=C(C(=O)OCC)C=CC1Cl)Br | C14H12BrClN2O3
